US07214800B2
d) 2-[(R)-1-(4-Aminomethyl-2-p-tolyl-imidazol-1-yl)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one
To N-{1-[(R)-1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-ylmethyl}-phthalimide (3.50 g, 5.5 mMol) in EtOH (100 mL) was added hydrazine monohydrate (1.1 mL, 22.7 mMol). The reaction was stirred at RT for 72 h, filtered through a pad of Celite® to remove the insoluble precipitate, rinsed with EtOH and evaporated to dryness. Purification by flash chromatography on silica gel [5–10% (5% NH4OH in MeOH)/CH2Cl2] gave the title compound (2.71 g, 96%) as a white solid: 1H NMR (400 MHz, CDCl3) δ 8.24 (d, J=8.6 Hz, 1H), 7.80 (d, J=2.0 Hz, 1H), 7.40–7.51 (m, 6H), 7.15–7.22 (m, 3H), 6.43 (d, J=7.1 Hz, 2H), 5.78 (d, J=16.3 Hz, 1H), 4.84 (d, J=10.5 Hz, 1H), 3.87 (d, J=16.3 Hz, 1H), 3.83 (2d, 2H), 3.00 (m, 1H), 2.60 (br s, 2H), 2.54 (s, 3H), 0.90 (d, J=6.7 Hz, 3H), 0.31 (d, J=6.7 Hz, 3H); MS (ES) m/e 512.2 (M+H)+.

reactant | N-{1-[(R)-1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-ylmethyl}-phthalimide | 5.5 mMol, 3.50 g | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)[C@@H](C(C)C)N1C(=NC(=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=C(C=C2)C | C38H32ClN5O3
reactant | hydrazine monohydrate | 22.7 mMol, 1.1 mL | O.NN
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-[(R)-1-(4-Aminomethyl-2-p-tolyl-imidazol-1-yl)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one | 2.71 g, 96% | NCC=1N=C(N(C1)[C@H](C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)C1=CC=C(C=C1)C | C30H30ClN5O
